US07429665B2
4-Benzyloxy-2-fluoro-benzoic acid
Following the procedure for the preparation of 4-(Quinolin-2-ylmethoxy)-benzoic acid but substituting 4-Benzyloxy-2-fluoro-benzoic acid benzyl ester provided the title compound. MS: (M+H m/z=247.1).

reactant | 4-(Quinolin-2-ylmethoxy)-benzoic acid | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C(=O)O)C=C1 | C17H13NO3
reactant | 4-Benzyloxy-2-fluoro-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)=O | C21H17FO3
product | 4-Benzyloxy-2-fluoro-benzoic acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)F | C14H11FO3
